US05393779
Di-t-butyl dicarbonate (1.25 g) in t-butanol (15 ml) was added to a stirred solution of (R)-4-[2-(2-hydroxy-2-phenylethylamino)ethoxy]phenylacetic acid hydrochloride (2.0 g) in 1N aqueous sodium hydroxide (30 ml). The reaction mixture was stirred for 90 minutes at 20° C. The solvent was removed under reduced pressure. Water (20 ml) was added to the residue and the solution was acidified with 2N aqueous citric acid. The product was extracted into 5% methanol in dichloromethane (5×20 ml). The extracts were dried and the solvent removed under reduced pressure to yield N-t-butoxycarbonyl-(R)-4-[2-(2-hydroxy-2-phenylethylamino)ethoxy]phenylacetic acid as a glass (1.3 g); [α]25D =+6.2° (c=1.0 in methanol).

reactant | Di-t-butyl dicarbonate | 1.25 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | (R)-4-[2-(2-hydroxy-2-phenylethylamino)ethoxy]phenylacetic acid hydrochloride | 2.0 g | Cl.O[C@@H](CNCCOC1=CC=C(C=C1)CC(=O)O)C1=CC=CC=C1
solvent | t-butanol | 15 ml | C(C)(C)(C)O | C4H10O
solvent | sodium hydroxide | 1N, 30 ml | [OH-].[Na+]
product | N-t-butoxycarbonyl-(R)-4-[2-(2-hydroxy-2-phenylethylamino)ethoxy]phenylacetic acid | 1.3 g | C(C)(C)(C)OC(=O)N(CCOC1=CC=C(C=C1)CC(=O)O)C[C@@H](C1=CC=CC=C1)O | C23H29NO6
